US06300342B1
6-trifluoroacetylamino-1,2,3,4-tetrahydro-quinoline
2,4 g (0.01 mol) of 6-trifluoroacetylamino-quinoline are dissolved in 20 ml glacial acetic acid and hydrogenated for I hour with 0.6 g platinum oxide at 3 bar. Then the catalyst is suction filtered and the solution is concentrated by evaporation. The residue is washed with a little sodium hydrogen carbonate solution and dried.

reactant | 6-trifluoroacetylamino-quinoline | 0.01 mol, 2,4 g | FC(C(=O)NC=1C=C2C=CC=NC2=CC1)(F)F | C11H7F3N2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 0.6 g | [Pt]=O
product | 6-trifluoroacetylamino-1,2,3,4-tetrahydro-quinoline | FC(C(=O)NC=1C=C2CCCNC2=CC1)(F)F | C11H11F3N2O
